US07501449B2
3.1 Methyl 6-chloro-2-hydroxy-3,4-dihydro-1-naphthoate
10.1 g (252 mmol) of 60% sodium hydride in oil, 621 ml of toluene and 14.18 ml (163 mmol) of dimethyl carbonate are introduced into a 2 l reactor. The reaction mixture is stirred at reflux for 1 h. A solution of 15.2 g (84 mmol) of 6-chloro-3,4-dihydro-1H-naphthalen-2-one in 268 ml of toluene is subsequently added. The reaction mixture is heated at reflux for 24 h. The reaction mixture is subsequently cooled to 0° C. and then acidified by addition of 92 ml of acetic acid. 114 ml of water are added and the separated organic phase is separated by settling and washed with three times 150 ml of water and then with 100 ml of a saturated aqueous sodium chloride solution. The organic phase is subsequently dried over magnesium sulphate and then concentrated under reduced pressure. The residue is purified by chromatography on a silica column (elution being carried out with a mixture of cyclohexane and of dichloromethane) to result in 12.8 g (53.6 mmol) of the expected product used as is in the following stage.

reactant | sodium hydride | 252 mmol, 10.1 g | [H-].[Na+]
reactant | dimethyl carbonate | 163 mmol, 14.18 ml | C(OC)(OC)=O | C3H6O3
reactant | 6-chloro-3,4-dihydro-1H-naphthalen-2-one | 84 mmol, 15.2 g | ClC=1C=C2CCC(CC2=CC1)=O | C10H9ClO
reactant | acetic acid | 92 ml | C(C)(=O)O | C2H4O2
solvent | toluene | 268 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 621 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 114 ml | O | H2O
product | Methyl 6-chloro-2-hydroxy-3,4-dihydro-1-naphthoate | 53.6 mmol, 12.8 g | ClC=1C=C2CCC(=C(C2=CC1)C(=O)OC)O | C12H11ClO3
